US07015218B1
5-Methyl-N-[3-methyl-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide 1 hydrate
By the reaction and treatment the same manner as in Example 150 using 5-methyl-1-(4-trifluoromethylphenyl) pyrazole-4-carboxylic chloride (1.0 g) and 3-methyl-4-(4-morpholinopiperidin-1-yl)aniline (0.95 g), the title compound (1.1 g) was obtained, melting point: 252–255° C.

reactant | 5-methyl-1-(4-trifluoromethylphenyl) pyrazole-4-carboxylic chloride | 1.0 g | CC1=C(C=NN1C1=CC=C(C=C1)C(F)(F)F)C(=O)Cl | C12H8ClF3N2O
reactant | 3-methyl-4-(4-morpholinopiperidin-1-yl)aniline | 0.95 g | CC=1C=C(N)C=CC1N1CCC(CC1)N1CCOCC1 | C16H25N3O
product | 5-Methyl-N-[3-methyl-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide | 1.1 g | CC1=C(C=NN1C1=CC=C(C=C1)C(F)(F)F)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)C | C28H32F3N5O2
